2120-01-19 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Spiked to 101 in the PACU prior to transfer, started on Vanco
   Multiple episodes of anxiety and hypertension, given concern for
   re-bleed and intubation gave 1mg Ativan + 5mg Metoprolol x 3.
   - Around 5:30am pt with more profound anxiety, gave 1 morphine and 20mg
   Lasix with good improvement in dyspnea
 ARTERIAL LINE - START [**2120-1-18**] 04:07 PM
   NOT SUTURED
 ARTERIAL LINE - STOP [**2120-1-19**] 06:50 AM
   NOT SUTURED
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2120-1-18**] 10:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2120-1-19**] 05:56 AM
   Metoprolol - [**2120-1-19**] 05:56 AM
   Morphine Sulfate - [**2120-1-19**] 06:00 AM
   Furosemide (Lasix) - [**2120-1-19**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-19**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 108 (87 - 132) bpm
   BP: 115/53(67) {115/53(67) - 131/57(74)} mmHg
   RR: 35 (24 - 36) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    593 mL
                                                                    198 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                    593 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                  1,040 mL
   Urine:
                                                                    750 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -157 mL
                                                                   -843 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 96%
   ABG: 7.42/28/76.[**Numeric Identifier 126**]/17/-4
   PaO2 / FiO2: 76
   Physical Examination
   GENERAL: NAD, alert and oriented X3
   SKIN: Warm, well perfused. No rashes/lesions
   HEENT: NCAT, EOMI, PERRLA, anicteric sclera, pink conjunctiva,
   normal oral and nasopharynx, moist mucus membranes, good
   dentition
   NECK: Soft, supple. No lymphadenopathy or JVD
   CARDIAC: Regular rate and rhythm, normal S1/S2, no
   murmurs/gallops/rubs
   LUNG: CTAB, no wheezes, rhonchi, or rales
   ABDOMEN: nondistended, +BS, nontender in all quadrants,
   no rebound/guarding, no HSM
   M/S: moving all extremities well, no cyanosis, clubbing or
   edema, no obvious deformities
   PULSES: 2+ DP pulses bilaterally
   Labs / Radiology
   46 K/uL
   10.2 g/dL
   139 mg/dL
   1.5 mg/dL
   17 mEq/L
   4.1 mEq/L
   32 mg/dL
   108 mEq/L
   139 mEq/L
   30.7 %
   3.8 K/uL
        [image002.jpg]
                             [**2120-1-18**]  07:23 PM
                             [**2120-1-18**]  07:52 PM
                             [**2120-1-19**]  03:26 AM
                             [**2120-1-19**]  05:56 AM
   WBC
   3.8
   3.8
   Hct
   29.0
   30.7
   Plt
   42
   46
   Cr
   1.5
   1.5
   TropT
   0.06
   0.06
   TCO2
   23
   19
   Glucose
   148
   139
   Other labs: PT / PTT / INR:17.1/27.0/1.5, CK / CKMB /
   Troponin-T:173/3/0.06, Differential-Neuts:76.0 %, Band:10.0 %,
   Lymph:5.0 %, Mono:6.0 %, Eos:0.0 %, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   70 year old male with known CLL presents with hemoptysis in setting of
   known LLL mass; now s/p embolization of bronchial artery.
   # Hemoptysis: patient underwent bronchoscopy complicated by massive
   bleeding from thrombus / mass lesion in LLL lobe; now s/p IR
   embolization of bronchial artery with injection of alcohol into the
   tumor. Currently Hct has been stable
   - Will monitor hct q6 (pt also with autoimmune hemolytic anemia)
   - Transfuse Hct< 25
   - If patient begins to have active bleeding, will need to intubate R.
   mainstem given site of bleed is left side; given high suspicion for
   metastatic renal cell cancer however options are limited if further
   bleeding develops, however will likely require thoracic surgery and IR
   .
   # Respiratory Distress- Patient successfully extubated, now stable on
   high flow oxygen however with embolized LLL and with persistant RUL
   collapse, contributing to dyspnea. He was extremely anxious overnight
   with concern that he may need to be re-intubated.
   -Treat anxiety prn
   -Will continue treatment for pneumonia with
   Vanc/Levo/Cefepime/Voriconazole
   .
   #CAD: Patient with profound anemia in setting of CLL, autoimmune
   hemolitic anemia and recent large volume bleed. ECG now with
   anteroseptal T wave inversions and ~1mm ST depression along inferior
   leads. Given thrombocytopenia, recent bleeding and active CLL, patient
   is not a candidate for antiplatelet therapy (aspirin / clopidogrel) and
   this likely represents a demand related event and not platelet related
   coronary thrombosis. Troponin already on way down inspite of worsening
   renal function suggesting minimal myocardial involvement.. Enzymes have
   remained flat
   - Continue metoprolol as tolerated
   - Avoid aspirin / clopidogrel / heparin
   - Transfuse to goal Hct ~25, nitrates / morphine PRN
   .
   # Fever: Temp 100.5 overnight; Unknown how long patient has been
   afebrile but patient had a week of fever prior to admission and has
   been treated by MICU/BMT teams with broad coverage given
   immunosuppressed state. Flu swab negative, U/A negative, Urine
   Legionella negative and all blood cultures to date with no growth. CXR
   and CT with concern for pneumonia vs atelectasis.  All culture data
   since [**1-9**] has been negative and NGTD on [**1-17**] and [**1-17**] surveillence
   cultures.
   -Will continue Vanc/Levo/Cefepime/ Voriconazole(need to clarify
   duration)
   -Follow up culture data
   .
   # [**Last Name (un) **]: Cr very elevated to 1.5 today, (baseline 1.0-1.2); unclear
   etiology at this point but may be due to hypovolemia in setting of
   massive blood loss, however this is most likely cause. Given history of
   RCC however, wou ld conisder this in working diagnosis
   - Volume resuscitate
   - Continue to trend for now
   .
   # Anemia: Patient has known AIHA related to CLL and HCT 25 from
   baseline 28-30 with increased hyperbilirubinemia possibly related to
   hemolysis with elevated TB, low haptoglobin. Transfused 1 unit PRBCs in
   ED. Had responsded appropriate to transfusion, and hct stable
   - serial HCTs q6
   - Iron studies c/w ACD
   - GAS
   - cont methylpred 4mg q24
   .
   # CLL: Per oncology plan is to defer further treatment
   -Discuss with primary onc team
   #HTN: Continue metoprolol as above
   .
   # AIHA: per notes was on Prednisone; change to 4mg methylpred q24
   .
   # DM2:  Appreciate [**Last Name (un) 303**] diabetes center following.
   - FS QID and ISS
   .
   # FEN: NPO
   # Prophylaxis: pneumoboots
   # Access: PIV x 2
   # Communication: Patient
 HEMOPTYSIS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-1-18**] 04:05 PM
   22 Gauge - [**2120-1-18**] 04:06 PM
   20 Gauge - [**2120-1-18**] 04:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-01-19 09:36:00 Physician Attending Progress Note
Chief Complaint: hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 ARTERIAL LINE - START [**2120-1-18**] 04:07 PM
   NOT SUTURED
 ARTERIAL LINE - STOP [**2120-1-19**] 06:50 AM
   NOT SUTURED
   Confused, episodes of HTN to 160-180 and tachycardia to 140s in sinus
   rhythm, given lopressor 5iv pushes, also given ativan. This am after
   turn became dyspneic, given morphine and lasix and nebs and he
   improved. CXR obtained this am. Last ABG on 15L. EKG overnight. Hct
   nadired at 26. Spike a temperature to 101 in the PACU.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2120-1-18**] 10:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2120-1-19**] 05:56 AM
   Metoprolol - [**2120-1-19**] 05:56 AM
   Morphine Sulfate - [**2120-1-19**] 06:00 AM
   Furosemide (Lasix) - [**2120-1-19**] 06:00 AM
   Other medications:
   all po meds are held as he choking on water, famotidine, nebs albuterol
   and atrovent, cefepime, voriconazole, levofloxcin, vancomycin,
   lopressor iv, insulin sliding scale
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-19**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 113 (87 - 132) bpm
   BP: 128/58(72) {115/53(67) - 131/58(74)} mmHg
   RR: 35 (24 - 36) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    593 mL
                                                                    208 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                    593 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                  1,140 mL
   Urine:
                                                                    750 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -157 mL
                                                                   -932 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 94%
   ABG: 7.42/28/76.[**Numeric Identifier 126**]/17/-4
   PaO2 / FiO2: 76
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, decreased abdominal
   wall tone
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): [**Hospital1 19**], Movement: Purposeful, Tone: Normal, tone
   decreased in the LE, upgoign toes bilaterally, and 3/5 strength in the
   LE.
   Labs / Radiology
   10.2 g/dL
   46 K/uL
   139 mg/dL
   1.5 mg/dL
   17 mEq/L
   4.1 mEq/L
   32 mg/dL
   108 mEq/L
   139 mEq/L
   30.7 %
   3.8 K/uL
        [image002.jpg]
                             [**2120-1-18**]  07:23 PM
                             [**2120-1-18**]  07:52 PM
                             [**2120-1-19**]  03:26 AM
                             [**2120-1-19**]  05:56 AM
   WBC
   3.8
   3.8
   Hct
   29.0
   30.7
   Plt
   42
   46
   Cr
   1.5
   1.5
   TropT
   0.06
   0.06
   TCO2
   23
   19
   Glucose
   148
   139
   Other labs: PT / PTT / INR:17.1/27.0/1.5, CK / CKMB /
   Troponin-T:173/3/0.06, Differential-Neuts:76.0 %, Band:10.0 %,
   Lymph:5.0 %, Mono:6.0 %, Eos:0.0 %, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
 HEMOPTYSIS: likely secondary to LLL mass, now s/p embolization
   doesnot appear to be having any further bleeding, hct stable, and no
   further hemoptysis
 LE weakness: upgoing toes, 3/5 strength, will consult Neuro, too
   unstable for MRI now.
 Hypoxia/repiratory failure: Atelectasis + LLL infarction + ?
   pneumonia + residual hemorrhage + some volume overload= will continue
   to gently diurese, chest PT, would not encourage cough given
   hemoptysis, would incourage deep breathing. Continue iv antibiotics, O2
   supplementation. send BNP
 Fever: spiked in the PACU ? related to developing LLL infarction, on
   vanco, levo, cefepime, and voriconzole. Will discuss with oncology re-
   stopping  voriconazole as he will need iv as he is not able to take po.
Acute Renal failure: send urine lytes, trend cr, will diurese gently
   given pulmonary status.
 Goals of care: will discuss with primary team.
 Diabetes: appreciate [**Last Name (un) **] follow up .
 NPO given mental status.
   rest of plan per HO note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-1-18**] 04:05 PM
   22 Gauge - [**2120-1-18**] 04:06 PM
   20 Gauge - [**2120-1-18**] 04:06 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2120-01-20 07:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Neuro consulted and did not feel needs any further imaging; especially
   given pt cannot lie flat for MRI and weakness may be [**1-9**] encephalopathy
   - FeNa: 2.7
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2120-1-19**] 11:24 AM
   Vancomycin - [**2120-1-19**] 08:00 PM
   Cefipime - [**2120-1-19**] 10:15 PM
   Voriconazole - [**2120-1-20**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-1-19**] 10:47 AM
   Metoprolol - [**2120-1-20**] 02:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-20**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.2
   HR: 89 (89 - 115) bpm
   BP: 118/52(67) {104/48(61) - 145/79(90)} mmHg
   RR: 27 (23 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,010 mL
                                                                    178 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    890 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  2,556 mL
                                                                    420 mL
   Urine:
                                                                  2,556 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,546 mL
                                                                   -242 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   GENERAL: NAD, alert and oriented X3
   HEENT: PERRL, MM moist
   CARDIAC: Regular rate and rhythm, normal S1/S2, no
   murmurs/gallops/rubs
   LUNG: Rhonchi on right>left
   ABDOMEN: nondistended, +BS, nontender in all quadrants,
   no rebound/guarding
   EXT: no edema, moves both LE
   Labs / Radiology
   55 K/uL
   10.0 g/dL
   158 mg/dL
   1.6 mg/dL
   19 mEq/L
   3.9 mEq/L
   35 mg/dL
   109 mEq/L
   141 mEq/L
   29.2 %
   2.7 K/uL
        [image002.jpg]
                             [**2120-1-18**]  07:23 PM
                             [**2120-1-18**]  07:52 PM
                             [**2120-1-19**]  03:26 AM
                             [**2120-1-19**]  05:56 AM
                             [**2120-1-19**]  12:08 PM
                             [**2120-1-19**]  05:14 PM
                             [**2120-1-20**]  12:32 AM
                             [**2120-1-20**]  04:28 AM
   WBC
   3.8
   3.8
   2.7
   Hct
   29.0
   30.7
   31.7
   28.9
   29.8
   29.2
   Plt
   42
   46
   55
   Cr
   1.5
   1.5
   1.7
   1.6
   TropT
   0.06
   0.06
   TCO2
   23
   19
   Glucose
   148
   139
   160
   158
   Other labs: PT / PTT / INR:18.0/31.1/1.6, CK / CKMB /
   Troponin-T:173/3/0.06, Differential-Neuts:83.1 %, Band:10.0 %,
   Lymph:9.3 %, Mono:6.1 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, Ca++:7.9
   mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   70 year old male with known CLL presents with hemoptysis in setting of
   known LLL mass; now s/p embolization of bronchial artery.
   # Hemoptysis: patient underwent bronchoscopy complicated by massive
   bleeding from thrombus / mass lesion in LLL lobe; now s/p IR
   embolization of bronchial artery with injection of alcohol into the
   tumor. Currently Hct has been stable
   - [**Hospital1 7**] Hct
   - Transfuse Hct< 25
   - If patient begins to have active bleeding, will need to intubate R.
   mainstem given site of bleed is left side; given high suspicion for
   metastatic renal cell cancer however options are limited if further
   bleeding develops, however will likely require thoracic surgery and IR
   #LUL Mass- Differential includes CLL vs Renal cell carcinoma in order
   to determine treatment options; currently need a tissue diagnosis.  IP
   not comfortable repeating bronch in light of bleeding that occurred on
   previous bronch.  Options include VATS vs mediastinoscopy
   -Will need to discuss with thoracic surgery
   .
   # Respiratory Distress- Patient successfully extubated, now stable on
   high flow oxygen however with embolized LLL and with persistant RUL
   collapse. Other components contributing to respiratory distress include
   pneumonia. Currently weaned down to 4L
   -Aggressive Chest PT
   -Continue nebs for bronchospasm
   -Treat anxiety prn
   -Will continue treatment for pneumonia with
   Vanc/Levo/Cefepime/Voriconazole-plan for 8 day course
   #Lower extremity weakness- Initial concern for possible spinal artery
   emboli post procedure; consulted neuro who felt less likely and didn
   want to get MRI given pt would not tolerate it (cannot lie flat);
   however pts ability to move lower extremities has improved; may be due
   to sedation/meds that are now wearing off
   -Continue to monitor exam closely
   -Neuro following, appreciate recs
   .
   #CAD: Patient with profound anemia in setting of CLL, autoimmune
   hemolitic anemia and recent large volume bleed. ECG now with
   anteroseptal T wave inversions and ~1mm ST depression along inferior
   leads. Given thrombocytopenia, recent bleeding and active CLL, patient
   is not a candidate for antiplatelet therapy (aspirin / clopidogrel) and
   this likely represents a demand related event and not platelet related
   coronary thrombosis. Troponin already on way down inspite of worsening
   renal function suggesting minimal myocardial involvement.. Enzymes have
   remained flat
   - Continue metoprolol as tolerated
   - Avoid aspirin / clopidogrel / heparin
   - Transfuse to goal Hct ~25, nitrates / morphine PRN
   ..
   # [**Last Name (un) **]: Cr continues to be elevated 1.6 from 1.7 yesterday (baseline
   1.0-1.2); unclear etiology at this point but may be due to hypovolemia
   in setting of massive blood loss, however this is most likely cause.
   Given history of RCC however, this may also be contributing. FENA 2.7
   - Continue to trend
   .
   # Anemia: Patient has known AIHA related to CLL and HCT 25 from
   baseline 28-30 with increased hyperbilirubinemia possibly related to
   hemolysis with elevated TB, low haptoglobin. Transfused 1 unit PRBCs in
   ED. Had responsded appropriate to transfusion, and hct stable
   - serial HCTs q8
   - Iron studies c/w ACD
   - GAS
   - resume Prednisone 5mg daily today now that tolerating PO
   .
   # CLL: Per oncology plan is to defer further treatment; oncologist Dr
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 363**] who is in touch w/family
   #HTN: Continue metoprolol as above
   .
   # AIHA: Prednisone 5mg daily
   # DM2:  Appreciate [**Last Name (un) 303**] diabetes center following.
   - FS QID and ISS
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 DIABETES MELLITUS (DM), TYPE II
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HEMOPTYSIS
   ICU Care
   Nutrition: Advance diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-1-18**] 04:05 PM (left EJ)
   22 Gauge - [**2120-1-18**] 04:06 PM
   20 Gauge - [**2120-1-18**] 04:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU ; will transfer to [**Hospital Ward Name 1437**]/onc service when respi
   status improves
   ------ Protected Section ------
   Pt seen and evaluated with team on rounds. Please see above note for
   details of history and plan.
   In brief:
   70 yr man with CLL, remote hx renal Cell CA. Presented with hemoptysis
   and lung mass. Massive hemoptysis during bronch/intubated, underwent
   embolization and bleeding stopped. No diagnosis obtained.
   Seen by neuro and has been moving spontaneously this AM. Spinal Artery
   embolization unlikely.
   Extubated on [**12-18**]/ and has done well on 4 liters
   Large RUL mass lesion on CXR
   PE:
   Alert, comfortable, moving all 4 extremities
   Lungs - Bronchial BS over R post lung
   Focal wheeze ant on R
   Cor - Nl
   Abdomen - benign
   Extrem - no edema
   Imp:
   No further hemoptysis
   No evidence of spinal infarction
   Will discuss best route for biopsy and definitive dx
   Watch in ICU for 24 hrs and then call out to Onc
   Time Spent: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 206**], MD
   on:[**2120-1-20**] 05:16 PM ------

2120-01-21 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FALL - At [**2120-1-21**] 12:15 AM
   -Reviewed the chart regarding antibiotics; pt admitted to [**Hospital Unit Name 1**] [**1-9**]
   started on vanc/cefepime/levo and then vanc/cefepime discontinued for
   24 hours [**1-12**] b/c was empiric and then restarted [**1-13**] for pneumonia.
   Voriconazole started [**1-13**]. Thus currently day #12 (total 11 days given
   day off of vanc/cefepime/levo); day #8 of voriconazole
   -[**Last Name (un) 303**]: increased sliding scale per their recs
   -Patient fell out of bed at MN: (siderails not up): CT head done prelim
   neg; otherwise pt w/o complaints, not confused, some bleeidng in mouth;
   bit lip
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-1-20**] 12:00 AM
   Levofloxacin - [**2120-1-20**] 10:27 AM
   Cefipime - [**2120-1-20**] 11:30 AM
   Voriconazole - [**2120-1-21**] 02:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2120-1-20**] 08:31 AM
   Metoprolol - [**2120-1-21**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-1-21**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 91 (84 - 105) bpm
   BP: 128/62(80) {92/46(62) - 152/76(98)} mmHg
   RR: 30 (13 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,307 mL
                                                                    100 mL
   PO:
                                                                    490 mL
             TF:
   IVF:
                                                                    817 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    610 mL
   Urine:
                                                                  1,250 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     57 mL
                                                                   -510 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   GENERAL: NAD, alert and oriented X3
   HEENT: PERRL, MM moist
   CARDIAC: Regular rate and rhythm, normal S1/S2, no
   murmurs/gallops/rubs
   LUNG: Rhonchi on right>left
   ABDOMEN: nondistended, +BS, nontender in all quadrants,
   no rebound/guarding
   EXT: no edema, moves both LE
   Neuro: AAOx3
   CN II-XII grossly intact and non-focal b/l
   4+/5 strength in upper and [**3-11**] lower ext b/l
   Sensation to pain, temp, position intact b/l
   Reflexes [**1-11**] brachioradialis, biceps, triceps, patellar, Achilles
   Toes upgoing
   Labs / Radiology
   57 K/uL
   10.4 g/dL
   105 mg/dL
   1.5 mg/dL
   18 mEq/L
   4.3 mEq/L
   39 mg/dL
   111 mEq/L
   142 mEq/L
   32.2 %
   2.6 K/uL
        [image002.jpg]
                             [**2120-1-18**]  07:23 PM
                             [**2120-1-18**]  07:52 PM
                             [**2120-1-19**]  03:26 AM
                             [**2120-1-19**]  05:56 AM
                             [**2120-1-19**]  12:08 PM
                             [**2120-1-19**]  05:14 PM
                             [**2120-1-20**]  12:32 AM
                             [**2120-1-20**]  04:28 AM
                             [**2120-1-20**]  05:52 PM
                             [**2120-1-21**]  05:30 AM
   WBC
   3.8
   3.8
   2.7
   2.6
   Hct
   29.0
   30.7
   31.7
   28.9
   29.8
   29.2
   29.5
   32.2
   Plt
   42
   46
   55
   57
   Cr
   1.5
   1.5
   1.7
   1.6
   1.5
   TropT
   0.06
   0.06
   TCO2
   23
   19
   Glucose
   148
   139
   160
   158
   105
   Other labs: PT / PTT / INR:18.0/31.1/1.6, CK / CKMB /
   Troponin-T:173/3/0.06, Differential-Neuts:83.1 %, Band:10.0 %,
   Lymph:9.3 %, Mono:6.1 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, Ca++:8.3
   mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   70 year old male with known CLL presents with hemoptysis in setting of
   known LLL mass; now s/p embolization of bronchial artery.
   # Hemoptysis: patient underwent bronchoscopy complicated by massive
   bleeding from thrombus / mass lesion in LLL lobe; now s/p IR
   embolization of bronchial artery with injection of alcohol into the
   tumor. Currently Hct has been stable
   - [**Hospital1 7**] Hct
   - Transfuse Hct< 25
   - If patient begins to have active bleeding, will need to intubate R.
   mainstem given site of bleed is left side; given high suspicion for
   metastatic renal cell cancer however options are limited if further
   bleeding develops, however will likely require thoracic surgery and IR
   #LUL Mass- Differential includes CLL vs Renal cell carcinoma in order
   to determine treatment options; currently need a tissue diagnosis.  IP
   not comfortable repeating bronch in light of bleeding that occurred on
   previous bronch.  Options include VATS vs mediastinoscopy
   -Will need to discuss with thoracic surgery
   .
   # Respiratory Distress- Patient successfully extubated, now stable on
   high flow oxygen however with embolized LLL and with persistant RUL
   collapse. Other components contributing to respiratory distress include
   pneumonia. Currently weaned down to 4L
   -Aggressive Chest PT
   -Continue nebs for bronchospasm
   -Treat anxiety prn
   -Will continue treatment for pneumonia with
   Vanc/Levo/Cefepime/Voriconazole-plan for 8 day course
   .# s/p fall: Pt fell from bed last night. Head CT negative.  Pt with
   some bleeding from lip.  Neuro exam stable
   -- cont neuro checks
   -- repeat CT-head if neuro exam changes
   -- neurology following
   .
   #Lower extremity weakness- Initial concern for possible spinal artery
   emboli post procedure; consulted neuro who felt less likely and didn
   want to get MRI given pt would not tolerate it (cannot lie flat);
   however pts ability to move lower extremities has improved; may be due
   to sedation/meds that are now wearing off
   -Continue to monitor exam closely
   -Neuro following, appreciate recs
   .
   #CAD: Patient with profound anemia in setting of CLL, autoimmune
   hemolitic anemia and recent large volume bleed. ECG now with
   anteroseptal T wave inversions and ~1mm ST depression along inferior
   leads. Given thrombocytopenia, recent bleeding and active CLL, patient
   is not a candidate for antiplatelet therapy (aspirin / clopidogrel) and
   this likely represents a demand related event and not platelet related
   coronary thrombosis. Troponin already on way down inspite of worsening
   renal function suggesting minimal myocardial involvement.. Enzymes have
   remained flat
   - Continue metoprolol as tolerated
   - Avoid aspirin / clopidogrel / heparin
   - Transfuse to goal Hct ~25, nitrates / morphine PRN
   ..
   # [**Last Name (un) **]: Cr continues to be elevated 1.6 from 1.7 yesterday (baseline
   1.0-1.2); unclear etiology at this point but may be due to hypovolemia
   in setting of massive blood loss, however this is most likely cause.
   Given history of RCC however, this may also be contributing. FENA 2.7
   - Continue to trend
   .
   # Anemia: Patient has known AIHA related to CLL and HCT 25 from
   baseline 28-30 with increased hyperbilirubinemia possibly related to
   hemolysis with elevated TB, low haptoglobin. Transfused 1 unit PRBCs in
   ED. Had responsded appropriate to transfusion, and hct stable
   - serial HCTs q8
   - Iron studies c/w ACD
   - GAS
   - resume Prednisone 5mg daily today now that tolerating PO
   .
   # CLL: Per oncology plan is to defer further treatment; oncologist Dr
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 363**] who is in touch w/family
   #HTN: Continue metoprolol as above
   .
   # AIHA: Prednisone 5mg daily
   # DM2:  Appreciate [**Last Name (un) 303**] diabetes center following.
   - FS QID and ISS
 FALL(S)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 DIABETES MELLITUS (DM), TYPE II
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HEMOPTYSIS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2120-1-18**] 04:05 PM
   22 Gauge - [**2120-1-18**] 04:06 PM
   20 Gauge - [**2120-1-18**] 04:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Pt seen and evaluated on rounds with residents. Please see note above
   for details of history, exam ,and plan.
   In addition:
   Fell out of bed last night. Had neg CT Scan of head. No clear evidence
   of injury.
   No other significant events last 24 hrs.
   No further hemoptysis.
   PE
   More alert today
   Diffuse rhonchi
   HS distant
   Some bruising on bridge of nose
   Plan
   No further hemoptysis
   Has completed course of Ab
 will d/c and reculture if spikes
   Monitor neuro status
 MRI after fall was okay
   Time Spent = 30
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 206**], MD
   on:[**2120-1-21**] 10:24 ------